US05087688
2-Hydroxy-3-[2,6-bis(sec-butyl)phenoxy]propylamine
A 2.5 liter autoclave is charged, at room temperature and under nitrogen blanketing, with 440 g (1.667 mol) of 2,6-bis(sec-butyl)phenyl glycidyl ether and 30.2 g of water. Then 698.5 g (41.08 mol) of ammonia gas is blown in under pressure over 5 minutes and the reaction mixture is thereafter heated to 80° C. over 2 hours. After 1 hour at 80° C., the reaction mixture is cooled to room temperature, the pressure in the system is removed and the reaction product is concentrated on a rotary evaporator at 80° C./13 mbar. Yield: 436.1 g (93% of theory) of a brownish liquid reaction product which is purified by flash distillation. The boiling point is 170° C./0.13 mbar and the amine content is 3.548 meq/g (=99.1% of theory).

reactant | 2,6-bis(sec-butyl)phenyl glycidyl ether | 1.667 mol, 440 g | C(C1CO1)OC1=C(C=CC=C1C(C)CC)C(C)CC | C17H26O2
reactant | ammonia | 41.08 mol, 698.5 g | N | H3N
solvent | water | 30.2 g | O | H2O
product | 2-Hydroxy-3-[2,6-bis(sec-butyl)phenoxy]propylamine | OC(CN)COC1=C(C=CC=C1C(C)CC)C(C)CC | C17H29NO2
